US06958347B2
A solution of 5-ethyl-9-nitro-5H-phenanthridin-6-one I-1d (250 mg, 0.93 mmol) in THF (1 ml) was added to a suspension of lithium aluminum hydride (99 mg, 2.6 mmol) in THF (5 ml). The reaction mixture was heated to reflux for 2 h and cooled to 23° C. Excess hydride was quenched by careful sequential addition of water (5 drops from a Pasteur pipet), 1N aqueous sodium hydroxide (5 drops from a Pasteur pipet), and water (15 drops from a Pasteur pipet). Insolubles were removed by filtration, and the filter cake was washed with ethyl acetate (2 5-ml portions). The combined filtrates were washed with water (10 ml) and saturated aqueous sodium chloride (10 ml). The organics were dried over anhydrous sodium sulfate and were concentrated. The residue was purified by flash column chromatography (2% ethyl acetate in dichloromethane) to provide 5-ethyl-5,6-dihydro-phenanthridin-9-ylamine I-13a (52 mg, 25%).

reactant | 5-ethyl-9-nitro-5H-phenanthridin-6-one | 0.93 mmol, 250 mg | C(C)N1C=2C=CC=CC2C2=CC(=CC=C2C1=O)[N+](=O)[O-] | C15H12N2O3
reactant | lithium aluminum hydride | 2.6 mmol, 99 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 5-ethyl-5,6-dihydro-phenanthridin-9-ylamine | C(C)N1C=2C=CC=CC2C2=CC(=CC=C2C1)N | C15H16N2
